US06849738B2
t-butyl methyl ether (880 ml), ethanol (120 ml) and ethyl malonate (212.23 g, 1.325 mol) were added to magnesium ethoxide (151.62 g, 1.325 mol), and the mixture was heated to reflux for 30 minutes and returned to room temperature (hereinafter, abbreviated as Solution C). Thionyl chloride (315.27 g, 2.650 mol) was added to 4-nitrophenylacetic acid (200.00 g, 1.104 mol), and the mixture was stirred at 70-75° C. for 45 minutes. Thionyl chloride was distilled off under reduced pressure, followed by azeotropy with toluene (200 ml) twice. t-butyl methyl ether (400 ml) was added to the azeotropic residue to dissolve the residue, which was added to Solution C dropwise. The mixture was stirred at 65° C. for 30 minutes, cooled to room temperature, and 2N hydrochloric acid (800 ml) was added thereto dropwise under ice-cooling. The organic layer was separated, the aqueous layer was reverse-extracted with t-butyl methyl ether (400 ml), the organic layers were combined and the solvent was distilled off under reduced pressure. Acetic acid (336 ml), water (224 ml) and concentrated sulfuric acid (42.4 ml) were added to the concentrated residue, and the mixture was refluxed at an external temperature of 125° C. for 5 hours while stirring vigorously. After completion of the reaction, the reaction was ice-cooled to room temperature, and t-butyl methyl ether (800 ml) and water (800 ml) were added thereto, followed by extraction. An aqueous saturated sodium hydrogen carbonate solution (800 ml) and ethyl acetate (240 ml) were added to the organic layer to wash the layer, which was further washed with an aqueous saturated sodium hydrogen carbonate solution (800 ml). After washed with brine (800 ml) twice, the solvent was distilled off under reduced pressure, followed by azeotropy with toluene (200 ml) twice. Ethyl cyanoacetate (137.33 g, 1.214 mol), ethanol (460 ml) and powdery sulfur (38.92 g, 1.214 mol) and n-butylamine (88.79 g, 1.214 mol) were added to the azeotropic residue, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was stirred for 1 hour under ice-cooling, the crystals were filtered and washed with cold ethanol (400 ml). The crystals were dried under vacuum at 50° C. to give ethyl 2-amino-4-methyl-5-(4-nitrophenyl)thiophene-3-carboxylate (215.2 g, 0.702 mol, 63.6%).

reactant | ethyl malonate | 1.325 mol, 212.23 g | C(CC(=O)[O-])(=O)OCC
reactant | magnesium ethoxide | 1.325 mol, 151.62 g | [O-]CC.[Mg+2].[O-]CC
reactant | Thionyl chloride | 2.650 mol, 315.27 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-nitrophenylacetic acid | 1.104 mol, 200.00 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | Ethyl cyanoacetate | 1.214 mol, 137.33 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | sulfur | 1.214 mol, 38.92 g | [S] | S
reactant | n-butylamine | 1.214 mol, 88.79 g | C(CCC)N | C4H11N
solvent | ethanol | 460 ml | C(C)O | C2H6O
solvent | water | 800 ml | O | H2O
solvent | t-butyl methyl ether | 800 ml | COC(C)(C)C | C5H12O
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | t-butyl methyl ether | 880 ml | COC(C)(C)C | C5H12O
product | ethyl 2-amino-4-methyl-5-(4-nitrophenyl)thiophene-3-carboxylate | 0.702 mol, 215.2 g, 63.6% | NC=1SC(=C(C1C(=O)OCC)C)C1=CC=C(C=C1)[N+](=O)[O-] | C14H14N2O4S
